US04607033
4-[2-(2-Phenylmorpholino)propyl]phenoxyacetic acid methyl ester hydrochloride
A mixture of 2-phenylmorpholine hydrochloride (6.05 g), 1-(4-carbomethoxymethoxyphenyl)propan-2-one (6.63 g) and sodium cyanoborohydride (1.61 g) in methanol (100 ml) was stirred at room temperature for 22 hours. The solvent was removed under reduced pressure and aqueous sodium bicarbonate solution added to the residue and extracted with dichloromethane (×2). The extracts were washed with aqueous sodium bicarbonate, dried over anhydrous magnesium sulphate, filtered and the filtrate evaporated to dryness to give an oil. Chromatography on silica gel in 0→7% methanol in dichloromethane gave an oil which was dissolved in diethyl ether and treated with an ethereal solution of hydrogen chloride. Evaporation to dryness and trituration of the residue with ethyl acetate gave a solid. Recrystallisation of this solid gave the title compound, m.p. 187°-190° C. (methanol-ethyl acetate), of analytical purity.

reactant | 2-phenylmorpholine hydrochloride | 6.05 g | Cl.C1(=CC=CC=C1)C1CNCCO1
reactant | 1-(4-carbomethoxymethoxyphenyl)propan-2-one | 6.63 g | C(=O)(OC)COC1=CC=C(C=C1)CC(C)=O | C12H14O4
reactant | sodium cyanoborohydride | 1.61 g | C(#N)[BH3-].[Na+]
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 100 ml | CO | CH4O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 4-[2-(2-Phenylmorpholino)propyl]phenoxyacetic acid methyl ester hydrochloride | Cl.COC(COC1=CC=C(C=C1)CC(C)N1CC(OCC1)C1=CC=CC=C1)=O | InChI=1S/C22H27NO4.ClH/c1-17(14-18-8-10-20(11-9-18)27-16-22(24)25-2)23-12-13-26-21(15-23)19-6-4-3-5-7-19;/h3-11,17,21H,12-16H2,1-2H3;1H
